### PR TITLE
Remove hoare_vcg_precond_imp from wp_comb

### PR DESCRIPTION
**Pull request by corlewis**
This being a `wp_comb` rule is a leftover from before `wp_pre` was implemented and it is being removed because in some cases it can cause unintended schematics to appear in the assumptions. See https://github.com/seL4/l4v/issues/729 for more discussion of this being a problem.

This commit also updates all of the proofs that accidentally depended on it being a wp_comb rule. In many cases this involved `including classic_wp_pre`, which locally returns the wp attributes to a state similar to what it was when the proofs were first written. Other cases required small rewrites, often involving using `wpsimp` instead of `wp`, and removing some uses of `wp (once)`.

### CODE REVIEW

File: proof/infoflow/Ipc_IF.thy [hunk 1]
```diff
@@ -601,6 +601,7 @@ lemma send_signal_reads_respects:
                         set_thread_state_runnable_equiv_but_for_labels get_simple_ko_wp
                         gts_wp update_waiting_ntfn_equiv_but_for_labels
                         blocked_cancel_ipc_nosts_equiv_but_for_labels
+            | wp_pre0
```
Comment (corlewis) [inline proof/infoflow/Ipc_IF.thy:604]: This could probably be removed if we manage to add `wp_pre` to `wp (once)`. I should maybe leave a FIXME saying that.

Comment (lsf37) [reply proof/infoflow/Ipc_IF.thy:604]: yes, please

File: proof/refine/ARM/VSpace_R.thy [hunk 2]
```diff
@@ -883,7 +883,13 @@ lemma deleteASID_corres:
...
       apply wp
       apply (simp add: o_def)
-      apply (wp getASID_wp)
+      \<comment> \<open>FIXME: This proof weakens the schematic precondition so that an extra variable can be used,
+                and then uses `(clarsimp, assumption)` to resolve the schematic.
+                An alternative would be to use @{thm Some_to_the} to rewrite the conclusion, so that
+                the precondition does not need to depend on that variable.
+                Both approaches feel fragile.\<close>
+      apply (rule hoare_pre)
+       apply (wp getASID_wp)
```
Comment (lsf37) [inline proof/refine/ARM/VSpace_R.thy:892]: At least it does this explicitly now. I'd slightly favour the `Some_to_the` approach to be honest. At least that would likely fail fast when something changes, whereas an explicit schematic and then `assumption` might do weird things.

File: proof/refine/ARM_HYP/VSpace_R.thy [hunk 3]
```diff
@@ -1426,7 +1426,13 @@ lemma deleteASID_corres:
        apply (simp add: mask_asid_low_bits_ucast_ucast)
       apply wp
       apply (simp add: o_def)
-      apply (wp getASID_wp)
+      \<comment> \<open>FIXME: This proof weakens the schematic precondition so that an extra variable can be used,
+                and then uses `(clarsimp, assumption)` to resolve the schematic.
```
Comment (lsf37) [inline proof/refine/ARM_HYP/VSpace_R.thy:1430]: (see other instance)

File: proof/refine/X64/VSpace_R.thy [hunk 4]
```diff
@@ -349,7 +349,13 @@ lemma deleteASID_corres [corres]:
        apply (simp add: mask_asid_low_bits_ucast_ucast)
       apply wp
       apply (simp add: o_def)
-      apply (wp getASID_wp)
+      \<comment> \<open>FIXME: This proof weakens the schematic precondition so that an extra variable can be used,
+                and then uses `(clarsimp, assumption)` to resolve the schematic.
```
Comment (lsf37) [inline proof/refine/X64/VSpace_R.thy:353]: (see other instance)

**Review by lsf37 — APPROVED** [review]
Thanks for doing this. Bit scary to see so many `no_pre` still in use. So much stuff to clean up..

File: proof/crefine/AARCH64/Fastpath_Equiv.thy [hunk 5]
```diff
@@ -755,8 +755,7 @@ lemma fastpath_callKernel_SysCall_corres:
                               apply ((wp assert_inv threadSet_pred_tcb_at_state cteInsert_obj_at'_not_queued | wps)+)[1]
                              apply ((wp assert_inv threadSet_pred_tcb_at_state cteInsert_obj_at'_not_queued | wps)+)[1]
                             apply ((wp assert_inv threadSet_pred_tcb_at_state cteInsert_obj_at'_not_queued | wps)+)[1]
-                            apply (wp fastpathBestSwitchCandidate_lift[where f="threadSet f t" for f t])
-                             apply simp
+                            apply (wpsimp wp: fastpathBestSwitchCandidate_lift[where f="threadSet f t" for f t])
```
[the remark this answers is not in the document]
Comment (corlewis) [reply proof/crefine/AARCH64/Fastpath_Equiv.thy:758]: I have to admit that I wasn't thinking too hard, and once I realised that changing `wp` to `wpsimp` would generally fix these proofs I just went with that. The main benefit of `wpsimp` is actually the implicit `+` inside of it, which leads to additional invocations of `wp_pre`. This means that in this case, if we want to guarantee that there's no `clarsimp` steps then we could do `(wp ...)+`.

[the remark this answers is not in the document]
Comment (Xaphiosis) [reply proof/crefine/AARCH64/Fastpath_Equiv.thy:758]: The main issue with stability of fastpath proofs occurs in `Fastpath_C` in the `ccorres` proofs, I don't remember suffering this hell in the monadic rewrite proofs except when I manually tried to short-cut `Some/None` cases without using `wpc + monadic_rewrite_impossible`.

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 6]
```diff
@@ -907,23 +907,19 @@ lemma as_user_valid_sched[wp]:
...
+  unfolding tcb_sched_action_def tcb_sched_dequeue_def
+  apply wpsimp
   apply (clarsimp simp add: valid_queues_def etcb_at_def not_queued_def
                        split: option.splits)
   done
 
+lemma switch_to_thread_ct_not_queued[wp]:
+  "\<lbrace>valid_queues\<rbrace> switch_to_thread t \<lbrace>\<lambda>rv s. not_queued (cur_thread s) s\<rbrace>"
+  unfolding switch_to_thread_def
+  by wpsimp
```
Comment (Xaphiosis) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:921]: haha wow

**Review by Xaphiosis — APPROVED** [review]
I don't see anything more than what @lsf37 already pointed out. Nicely done, thank you.

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 6 above)
Comment (corlewis) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:921]: Yeah, this was one of the early cases before I found `classic_wp_pre` and when I was trying to properly fix broken proofs. The previous proof did a lot of very convoluted work to get to the `tcb_sched_action tcb_sched_dequeue` step with the appropriate precondition in place. Pulling it out to a separate lemma made things a lot simpler.

File: proof/crefine/AARCH64/Fastpath_Equiv.thy (hunk 5 above)
[the remark this answers is not in the document]
Comment (corlewis) [reply proof/crefine/AARCH64/Fastpath_Equiv.thy:758]: Hmm, sounds like it's ok to leave this as is then? Everything else being equal, I prefer `wpsimp` to `wp+`.

[the remark this answers is not in the document]
Comment (lsf37) [reply proof/crefine/AARCH64/Fastpath_Equiv.thy:758]: Yes, good to leave it from my side.
